### PR TITLE
[Merged by Bors] - feat(MeasureTheory/Measure): haarScalarFactor_map

### PR DESCRIPTION
**Pull request by bwangpj**
From FLT. 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/MeasureTheory/Measure/Haar/Unique.lean [hunk 1]
```diff
@@ -388,6 +388,26 @@ lemma haarScalarFactor_eq_mul (μ' μ ν : Measure G)
...
+@[to_additive]
+lemma haarScalarFactor_map (μ' μ : Measure G) [IsHaarMeasure μ] [IsHaarMeasure μ'] (φ : G ≃ₜ* G) :
+    (map φ μ').haarScalarFactor (map φ μ) = μ'.haarScalarFactor μ := by
+  -- The group has to be locally compact, otherwise the scalar factor is 1 by definition.
+  by_cases hG : LocallyCompactSpace G; swap
+  · simp [haarScalarFactor, hG]
+  obtain ⟨⟨f, f_cont⟩, f_comp, f_nonneg, f_one⟩ :
+    ∃ f : C(G, ℝ), HasCompactSupport f ∧ 0 ≤ f ∧ f 1 ≠ 0 := exists_continuous_nonneg_pos 1
+  have int_f_ne_zero : ∫ (x : G), f x ∂(map φ μ) ≠ 0 :=
+    ne_of_gt (f_cont.integral_pos_of_hasCompactSupport_nonneg_nonzero f_comp f_nonneg f_one)
```
Comment (ADedecker) [inline Mathlib/MeasureTheory/Measure/Haar/Unique.lean]: I think we should add a variaton of `haarScalarFactor_eq_integral_div` which takes in precisely the conclusion of `exists_continuous_nonneg_pos`: at least four lemmas above need to repeat the same arguments...

File: Mathlib/MeasureTheory/Measure/Haar/Unique.lean [hunk 2]
```diff
@@ -388,6 +388,26 @@ lemma haarScalarFactor_eq_mul (μ' μ ν : Measure G)
...
+  have hφ : AEMeasurable φ μ := φ.continuous.aemeasurable
+  rw [← NNReal.coe_inj, haarScalarFactor_eq_integral_div _ _ f_cont f_comp int_f_ne_zero,
+    haarScalarFactor_eq_integral_div μ' μ (f_cont.comp φ.continuous),
+    integral_map hφ f_cont.aestronglyMeasurable, integral_map ?_ f_cont.aestronglyMeasurable]
+  · rfl
+  · exact φ.continuous.aemeasurable
+  · exact f_comp.comp_homeomorph φ.toHomeomorph
+  · change ∫ x, f (φ x) ∂μ ≠ 0
+    rwa [← integral_map hφ f_cont.aestronglyMeasurable]
```
Comment (ADedecker) [inline Mathlib/MeasureTheory/Measure/Haar/Unique.lean]:
```suggestion
  rw [← NNReal.coe_inj, haarScalarFactor_eq_integral_div _ _ f_cont f_comp int_f_ne_zero,
    haarScalarFactor_eq_integral_div μ' μ (f_cont.comp φ.continuous),
    integral_map (by fun_prop) (by fun_prop),
    integral_map (by fun_prop) (by fun_prop)]
  · rfl
  · exact f_comp.comp_homeomorph φ.toHomeomorph
  · change ∫ x, f (φ x) ∂μ ≠ 0
    rwa [← integral_map (by fun_prop) f_cont.aestronglyMeasurable]
```

File: Mathlib/MeasureTheory/Measure/Haar/Unique.lean (hunk 1 above)
Comment (bwangpj) [reply Mathlib/MeasureTheory/Measure/Haar/Unique.lean]: I guess we still need the conclusion of `int_f_ne_zero` separately in some of these lemmas, so we might not save many lines by doing so

Comment (bwangpj) [reply Mathlib/MeasureTheory/Measure/Haar/Unique.lean]: I've added `haarScalarFactor_eq_integral_div_of_continuous_nonneg_pos`

**Comment by bwangpj** [comment]
-awaiting-author

**Review by RemyDegenne — APPROVED** [review]
Thanks!
bors r+
